US07186714B2
To a cold (0° C.) solution of 4-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-8-(4-morpholinyl)imidazo[1,2-α]pyridin-2-yl]benzonitrile (16 mg, 0.03 mmol) in methanol (2 mL) and tetrahydrofuran (2 mL) was added concentrated ammonium hydroxide (1 mL, 28%) followed by hydrogen peroxide (0.1 mL, 30%). The cold bath was removed and the mixture was stirred at room temperature for 2 hours at which time an additional 0.1 mL of 30% hydrogen peroxide was added. After an additional 14 hours, the reaction was quenched by the addition of saturated aqueous sodium thiosulfate. Ether was added and the layers separated. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (3% to 10% methanol in dichloromethane) provided 4-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-8-(4-morpholinyl)imidazo[1,2-α]pyridin-2-yl]benzamide (17 mg, 99%) as a white solid. 1H NMR (CDCl3): δ 9.03 (broad, 1H), 8.15 (d, 1H), 7.89–7.82 (m, 4H), 6.85 (t, 1H), 6.64 (d, 1H), 6.44 (d, 1H), 6.22–5.79 (broad, 2H), 5.36 (m, 1H), 4.37 (m, 1H), 4.02 (m, 4H), 3.61 (m, 4H), 2.20–2.11 (m, 2H), 1.84–1.57 (m, 6H); MS m/z 484 (M+1).

reactant | 4-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-8-(4-morpholinyl)imidazo[1,2-α]pyridin-2-yl]benzonitrile | 0.03 mmol, 16 mg | C1(CCCC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC=C2N2CCOCC2)C2=CC=C(C#N)C=C2 | C27H27N7O
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
reactant | hydrogen peroxide | 0.1 mL | OO | H2O2
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-8-(4-morpholinyl)imidazo[1,2-α]pyridin-2-yl]benzamide | 17 mg, 99% | C1(CCCC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC=C2N2CCOCC2)C2=CC=C(C(=O)N)C=C2 | C27H29N7O2
